US04540703
3-Mercaptopropionic acid (1.6 g) is dissolved in 1N aqueous sodium hydroxide solution (45 ml) and thereto is added dropwise a solution of 1-methyl-5-chloromethyl-1,2,3,4-tetrazole (15.2 g) in acetone (20 ml) with stirring under ice-cooling. Stirring is continued for 3 hours under ice-cooling. Acetone is distilled off and the residue is acidified with concentrated hydrochloric acid, saturated with sodium chloride and then, extracted with chloroform. The chloroform solution is dried over magnesium sulfate. After chloroform is distilled off, the residue is subjected to column chromatography (Kieselgel 60, made by Merck) by eluting the column with chloroform-methanol (10:1, V/V) to give 3-(1-methyl-1,2,3,4-tetrazol-5-yl)methylthio-propionic acid (2.1 g) as a colorless liquid.

reactant | 3-Mercaptopropionic acid | 1.6 g | SCCC(=O)O | C3H6O2S
reactant | 1-methyl-5-chloromethyl-1,2,3,4-tetrazole | 15.2 g | CN1N=NN=C1CCl | C3H5ClN4
reactant | sodium hydroxide | 1N, 45 ml | [OH-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(1-methyl-1,2,3,4-tetrazol-5-yl)methylthio-propionic acid | 2.1 g | CN1N=NN=C1CCCC(=S)O | C6H10N4OS
